US07119122B2
2-Fluoro-4-trifluoromethyl-benzonitrile (0.56 mL, 0.76 g, 4 mmol), 3-hydroxy-2-methoxybenzaldehyde (0.61 g, 4 mmol) and cesium carbonate (1.3 g, 4 mmol) were heated with stirring in dry DMF (4 mL) at 50° C. for 18 h. The reaction mixture was cooled, poured into water and extracted with ethyl acetate. The ethyl acetate layer was separated, washed with water (2×), 10% sodium carbonate solution (2×), water (1×), brine (1×), and dried over MgSO4. After filtration, the solvent was removed in vacuo to yield 2-(3-formyl-2-methoxy-phenoxy)-4-trifluoromethyl-benzonitrile (1.17 g, 91%) as a brown solid.

reactant | 2-Fluoro-4-trifluoromethyl-benzonitrile | 4 mmol, 0.56 mL, 0.76 g | FC1=C(C#N)C=CC(=C1)C(F)(F)F | C8H3F4N
reactant | 3-hydroxy-2-methoxybenzaldehyde | 4 mmol, 0.61 g | OC=1C(=C(C=O)C=CC1)OC | C8H8O3
reactant | cesium carbonate | 4 mmol, 1.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-(3-formyl-2-methoxy-phenoxy)-4-trifluoromethyl-benzonitrile | 1.17 g, 91% | C(=O)C=1C(=C(OC2=C(C#N)C=CC(=C2)C(F)(F)F)C=CC1)OC | C16H10F3NO3
